US08895544B2
2-Fluoro-4-{3-[5-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylmethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-5-(2,2,2-trifluoro-ethyl)-phenol
The title compound was prepared from 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol (100 mg, 0.21 mmol) and 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbaldehyde (88.2 mg, 0.46 mmol) using the method of Example 51. The crude material was purified initially over silica and finally by Prep TLC (Mobile Phase: 10% MeOH-DCM) to afford the title compound as an off white solid in 16.99% yield, 22 mg.

reactant | 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | 0.21 mmol, 100 mg | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1)CC(F)(F)F)O | C21H17F4N5O
reactant | 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbaldehyde | 0.46 mmol, 88.2 mg | N1(CCCCC1)C1=NC=C(C=C1)C=O | C11H14N2O
product | 2-Fluoro-4-{3-[5-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylmethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-5-(2,2,2-trifluoro-ethyl)-phenol | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)CC=2C=CC(=NC2)N2CCCCC2)N1)CC(F)(F)F)O | C32H31F4N7O
